US08729068B2
To a mixture of 1.8 g of methyl trans-4-[(tert-butoxycarbonyl)(isopropyl)amino]cyclohexane carboxylate and 20 mL of ethyl acetate were added 20 mL of a 4.0 M hydrogen chloride/ethyl acetate solution, followed by stirring at room temperature for 3 hours. The reaction mixture was concentrated under reduced pressure to obtain 1.18 g of methyl trans-4-(isopropylamino)cyclohexane carboxylate hydrochloride as a colorless solid.

reactant | methyl trans-4-[(tert-butoxycarbonyl)(isopropyl)amino]cyclohexane carboxylate | 1.8 g | C(C)(C)(C)OC(=O)N([C@@H]1CC[C@H](CC1)C(=O)OC)C(C)C | C16H29NO4
reactant | hydrogen chloride ethyl acetate | 4.0 M | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl trans-4-(isopropylamino)cyclohexane carboxylate hydrochloride | 1.18 g | Cl.C(C)(C)N[C@@H]1CC[C@H](CC1)C(=O)OC | InChI=1S/C11H21NO2.ClH/c1-8(2)12-10-6-4-9(5-7-10)11(13)14-3;/h8-10,12H,4-7H2,1-3H3;1H/t9-,10-;
